US06346625B1
a) 2-(2,4-Dimethoxybenzylamino)-3-(3-indolyl)-3-oxo-propionamide
A solution of 2.0 g (5.69 mmol) of [1-carbamoyl-2-(3-indolyl)-2-oxoethyl]-carbamic acid benzyl ester in 160 ml ethyl acetate:acetic acid:ethanol (1:2:1) was hydrogenolyzed at atmospheric pressure over 0.45 g of 10% Pd(C) for 3 h. The mixture was filtered and concentrated. 2.41 g (11.4 mmol) of NaBH(OAc)4 was added in portions to a solution of the residue and 0.95 g (5.69 mmol) of 2,4-dimethoxybenzaldehyde in 30 ml of DMF:HOAc (1:1). After 18 h at room temperature the reaction mixture was concentrated and purified by chromatography on SiO2 (PhMe—CH2Cl2—MeOH—NEt3, 30:60:20:2). The solid product was washed with ether to give the title compound (1.78 g, 85%).

reactant | [1-carbamoyl-2-(3-indolyl)-2-oxoethyl]-carbamic acid benzyl ester | 5.69 mmol, 2.0 g | C(C1=CC=CC=C1)OC(NC(C(=O)C1=CNC2=CC=CC=C12)C(N)=O)=O | C19H17N3O4
reactant | 2,4-dimethoxybenzaldehyde | 5.69 mmol, 0.95 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
solvent | ethyl acetate acetic acid ethanol | 160 ml | C(C)(=O)OCC.C(C)(=O)O.C(C)O
solvent | DMF HOAc | 30 ml | CN(C)C=O.CC(=O)O
product | 2-(2,4-Dimethoxybenzylamino)-3-(3-indolyl)-3-oxo-propionamide | 1.78 g, 85% | COC1=C(CNC(C(=O)N)C(=O)C2=CNC3=CC=CC=C23)C=CC(=C1)OC | C20H21N3O4
